US06090839
EXAMPLE 6 2-(2-(4-phenoxy-2-propylphenoxy)ethyl)benzofuran-5-acetic acid
Using the procedure from Example 1, steps F and G, the title compound was prepared from methyl 2-(2-hydroxyethyl)benzofuran-5-acetate and 4-phenoxy-2-propylphenol as a colorless solid.

reactant | methyl 2-(2-hydroxyethyl)benzofuran-5-acetate | OCCC=1OC2=C(C1)C=C(C=C2)CC(=O)OC | C13H14O4
reactant | 4-phenoxy-2-propylphenol | O(C1=CC=CC=C1)C1=CC(=C(C=C1)O)CCC | C15H16O2
product | 2-(2-(4-phenoxy-2-propylphenoxy)ethyl)benzofuran-5-acetic acid | O(C1=CC=CC=C1)C1=CC(=C(OCCC=2OC3=C(C2)C=C(C=C3)CC(=O)O)C=C1)CCC | C27H26O5
